US06645953B2
Preparation of cholesta-2,8,14-triene.
The title compound was prepared by using a method analogous to a method described in J Chemical Research (miniprint) (1979) 4714-4755. Cholesta-8,14-diene-3β-ol (1.17 g, 3 mmol) was dissolved in 10 ml of methylenechloride and cooled to −78° C. Over 10 min a solution of diethylaminosulfur trifluoride (1.4 g, 8,7 mmol) in 10 ml of methylenechloride was added at −78° C. The mixture was stirred and was then slowly heated to the room temperature. The reaction mixture was added 15 ml water while stirring was continued. The organic phase was separated and washed with 30 ml of 5% NaHCO3 and then with water. The organic phase was dried with MgSO4 and evaporated to dryness. The residue was purified by column chromatography using heptane for a first fraction A giving cholesta-2,8,14-triene, 0.23 g. Melting point: 104.7° C. Elementary analysis: Cal C: 88.45; H: 11.55. Found C: 88.58; H: 11.89. NMR: Hd: 5.64 (m 2H; C2—H; C3—H)d 5.35 (s,1H C 15H). Cd: 125.95 (C3), 125.67 (C2).

reactant | Cholesta-8,14-diene-3β-ol | 3 mmol, 1.17 g | CC(C)CCC[C@@H](C)[C@H]1CC=C2C=3CCC4C[C@H](CC[C@]4(C)C3CC[C@]12C)O | C27H44O
reactant | diethylaminosulfur trifluoride | 8,7 mmol, 1.4 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | 15 ml | O | H2O
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
product | cholesta-2,8,14-triene | CC(C)CCC[C@@H](C)[C@H]1CC=C2C=3CCC4CC=CC[C@]4(C)C3CC[C@]12C | C27H42
